US20010011090A1
5-(1-Methyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carbonyl chloride (150 mg) and THF (2 ml) were added to a mixture of 70% ethylamine aqueous solution (1 ml) and THF (2 ml), followed by stirring at room temperature for 2 hours. Water was added to the reaction solution, the thus formed product was extracted with ethyl acetate and then the extract was washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under a reduced pressure. The resulting residue was recrystallized from a mixed solvent of ethyl acetate and n-hexane to give N-ethyl-5-(1-methyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carboxamide (96 mg) as colorless powder crystals.

reactant | 5-(1-Methyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carbonyl chloride | 150 mg | CN1N=C(C=C1C1=CC=C(S1)C(=O)Cl)C(F)(F)F | C10H6ClF3N2OS
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | ethylamine | 1 ml | C(C)N | C2H7N
reactant | THF | 2 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | N-ethyl-5-(1-methyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carboxamide | 96 mg | C(C)NC(=O)C=1SC(=CC1)C1=CC(=NN1C)C(F)(F)F | C12H12F3N3OS
